US09428465B2
Step 1. Preparation of 1-benzhydryl-5-(p-tolyl)pyrimidine-2,4-dione
The title compound was obtained according to the procedure: described for the synthesis of Example 14 (Step 2), starting from 1-benzhydryl-5-iodo-pyrimidine-2,4-dione (0.11 g, 0.27 mmol) and p-tolylboronic acid (0.06 g, 0.41 mmol). The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 75:25) to afford the title compound (0.05 g, 50%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 2.32 (s, 3H), 7.11-7.15 (m, 3H), 7.20-7.24 (m, 6H), 7.34-7.44 (m, 6H), 8.16 (s, 1H). MS (ESI) m/z: 369 [M-H]−.

reactant | 1-benzhydryl-5-iodo-pyrimidine-2,4-dione | 0.27 mmol, 0.11 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)I)=O)=O | C17H13IN2O2
reactant | p-tolylboronic acid | 0.41 mmol, 0.06 g | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
product | 1-benzhydryl-5-(p-tolyl)pyrimidine-2,4-dione | 0.05 g, 50% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)C1=CC=C(C=C1)C)=O)=O | C24H20N2O2
